US07138425B2
b) 2-[3-(5-Carboxy-1,3-dioxo-1,3-dihydro-isoindol-2-yl)phenyl]benzoxazole-6-carboxylic acid methyl ester
Prepared by the method of Example 1b), from 2-(3-aminophenyl)benzoxazole-6-carboxylic acid methyl ester (100 mg, 0.37 mmol) and 1,2,4-benzenetricarboxylic anhydride (72 mg, 0.37 mmol) the title compound was obtained (148 mg, 90%). 1H NMR (DMSO) δ 8.45(dd, 1H), 8.39(m, 1H), 8.32(m, 3H), 8.13(d, 1H), 8.05(dd, 1H), 7.96(d, 1H), 7.80(m, 2H), 3.91(s, 3H). MS 443 m/z (M+H)+.

reactant | 2-(3-aminophenyl)benzoxazole-6-carboxylic acid methyl ester | 0.37 mmol, 100 mg | COC(=O)C1=CC2=C(N=C(O2)C2=CC(=CC=C2)N)C=C1 | C15H12N2O3
reactant | 1,2,4-benzenetricarboxylic anhydride | 0.37 mmol, 72 mg | C1=CC2=C(C=C1C(=O)O)C(=O)OC2=O | C9H4O5
product | 2-[3-(5-Carboxy-1,3-dioxo-1,3-dihydro-isoindol-2-yl)phenyl]benzoxazole-6-carboxylic acid methyl ester | COC(=O)C1=CC2=C(N=C(O2)C2=CC(=CC=C2)N2C(C3=CC=C(C=C3C2=O)C(=O)O)=O)C=C1 | C24H14N2O7
